US04362738
1-(4-Amino-3-bromo-5-diethylaminomethyl-benzoyloxy)-4-(3-benzoyl-α-methyl-phenylacetoxy)-n-butane
This compound was prepared from 4-(4-amino-3-bromo-5-diethylaminomethyl-benzoyloxy)-n-butyl chloride and sodium 3-benzoyl-α-methyl-phenylacetate analogous to Example 8.

reactant | 4-(4-amino-3-bromo-5-diethylaminomethyl-benzoyloxy)-n-butyl chloride | NC1=C(C=C(C(=O)OCCCCCl)C=C1CN(CC)CC)Br | C16H24BrClN2O2
reactant | sodium 3-benzoyl-α-methyl-phenylacetate | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)C(C(=O)[O-])C.[Na+]
product | 1-(4-Amino-3-bromo-5-diethylaminomethyl-benzoyloxy)-4-(3-benzoyl-α-methyl-phenylacetoxy)-n-butane | NC1=C(C=C(C(=O)OCCCCOC(C(C)C2=CC(=CC=C2)C(C2=CC=CC=C2)=O)=O)C=C1CN(CC)CC)Br | C32H37BrN2O5
